US04284646
(a) 2,2,5-Trimethyl-4-hexenoic Acid Methyl Ester
300 g. of a 10% solution of lithium diisopropylamide in hexane was introduced into 90 ml. of absolute tetrahydrofuran, cooled to 0°, and combined dropwise under agitation with a solution of 28 g. of isobutyric acid methyl ester in 150 ml. of absolute tetrahydrofuran. The reaction solution was stirred for one hour at 0°, then cooled to -40° and subsequently added to a solution of 58 g. of 4-bromo-2-methyl-2-butene (dimethylallyl bromide) in 60 ml. of absolute dimethyl sulfoxide, maintained at -20°. While allowing the temperature of the solution to rise to room temperature, the solution was stirred for 6 hours and then combined with saturated sodium chloride solution. The organic phase was separated, the aqueous phase was extracted five times with respectively 200 ml. of a 1/1 mixture of ether and hexane. The combined organic phases were washed neutral with 0.5 N hydrochloric acid and saturated sodium chloride solution, dried over magnesium sulfate, and concentrated on a forced circulation evaporator. The residue was distilled under vacuum, thus obtaining 20.7 g. of the title compound, b.p. (13 mm.) 74°.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | isobutyric acid methyl ester | COC(C(C)C)=O | C5H10O2
reactant | 4-bromo-2-methyl-2-butene | BrCC=C(C)C | C5H9Br
reactant | sodium chloride | [Cl-].[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,2,5-Trimethyl-4-hexenoic Acid Methyl Ester | COC(C(CC=C(C)C)(C)C)=O | C10H18O2
